US06300352B1
a) 2-(3-Bromophenyl)-N,N-dimethyl-acetamide
Prepared according to the method described in Example 24a) from 1-(3-is dimethylaminopropyl)-3-ethylcarbodiimide 4-hydrochloride (2.15 g), 4-dimethylaminopyridine (3.82 g), a 2M solution of dimethylamine in tetrahydrofuran (10 ml) and a solution of 3-bromophenylacetic acid (2.15 g) in dichloromethane (100 ml). The mixture was stirred overnight at room temperature. The reaction mixture was washed with 2M hydrochloric acid (3×100 ml), the organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated. The sub-title compound was obtained as an oil (2.89 g).

reactant | dimethylamine | CNC | C2H7N
reactant | 3-bromophenylacetic acid | 2.15 g | BrC=1C=C(C=CC1)CC(=O)O | C8H7BrO2
catalyst | 4-dimethylaminopyridine | 3.82 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2-(3-Bromophenyl)-N,N-dimethyl-acetamide | BrC=1C=C(C=CC1)CC(=O)N(C)C | C10H12BrNO
